US08022062B2
Dissolve 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (2.0 g, 5.20 mmol) in methanol (58 mL) and add potassium hydroxide (9.36 g, 167 mmol). Heat at 50° C. for 2 h. Cool to ambient temperature, add aqueous saturated ammonium chloride and water, extract three times with EtOAc, dry over anhydrous Na2SO4, and concentrate in vacuo to give 3-tert-butoxycarbonyl-7-chloro-6-mercapto-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.62 g, 5.20 mmol). Dissolve the crude 3-tert-butoxycarbonyl-7-chloro-6-mercapto-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.40 g, 4.46 mmol) in dry DMF (49.8 mL) and add DBU (0.80 mL, 5.35 mmol) and 3-bromopropyl phthalimide (1.55 g, 5.80 mmol). Stir at ambient temperature for 3 h. Add aqueous saturated ammonium chloride and water. Extract twice with EtOAc, dry over anhydrous Na2SO4, and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (6:1) to give the free base of title compound (1.64 g, 74%).

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 5.20 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | potassium hydroxide | 167 mmol, 9.36 g | [OH-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | methanol | 58 mL | CO | CH4O
product | 3-tert-butoxycarbonyl-7-chloro-6-mercapto-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 5.20 mmol, 1.62 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)S | C15H20ClNO2S
